US07101898B2
(E)-3-(4-(Isobutyl)phenyl)-1-((S)-2-((piperidin-1-yl)methyl)pyrrolidin-1-yl)but-2-en-1-one
130 mg of the title compound were synthesized as described for (E)-3-(4-bromophenyl)-1-((S)-2-((pyrrolidin-1-yl)methyl)pyrrolidin-1-yl)propenone, using (E)-3-(4-(Isobutyl)phenyl)but-2-enoic acid instead of (E)-4-bromocinnamic acid and 1-(((S)-pyrrolidin-2-yl)methyl)piperidine instead of (S)-2-((pyrrolidin-1-yl)methyl)pyrrolidine.

reactant | (E)-3-(4-(Isobutyl)phenyl)but-2-enoic acid | C(C(C)C)C1=CC=C(C=C1)/C(=C/C(=O)O)/C | C14H18O2
reactant | 1-(((S)-pyrrolidin-2-yl)methyl)piperidine | N1[C@@H](CCC1)CN1CCCCC1 | C10H20N2
product | (E)-3-(4-(Isobutyl)phenyl)-1-((S)-2-((piperidin-1-yl)methyl)pyrrolidin-1-yl)but-2-en-1-one | 130 mg | C(C(C)C)C1=CC=C(C=C1)/C(=C/C(=O)N1[C@@H](CCC1)CN1CCCCC1)/C | C24H36N2O
